### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/Projective): add maps and base changes

### PR DESCRIPTION
**Pull request by Multramate**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Projective.lean [hunk 1]
```diff
@@ -1673,11 +1694,250 @@ end Point
...
+
+variable {f} in
+lemma baseChange_nonsingular (hf : Function.Injective f) (P : Fin 3 → A) :
+    (W'.baseChange B).toProjective.Nonsingular (f ∘ P) ↔
+      (W'.baseChange A).toProjective.Nonsingular P := by
+  rw [← map_nonsingular hf, AlgHom.toRingHom_eq_coe, map_baseChange, RingHom.coe_coe]
+
+lemma baseChange_negY (P : Fin 3 → A) :
+    (W'.baseChange B).toProjective.negY (f ∘ P) = f ((W'.baseChange A).toProjective.negY P) := by
+  erw [← map_negY, map_baseChange]
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Projective.lean:1865]: All these `erw`s are probably pointing at a missing lemma. Can you see if that is the case?

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Projective.lean:1865]: Apparently not! I just have to add `RingHom.coe_coe` in each `rw`.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
